US05686455
(a) Methyl 4-[(methanesulfonamido)methyl]benzoate
To a suspension of 4-(aminomethyl)benzoic acid (10 g, 66 mmol) in MeOH (100 mL) at 0° C. was added SOCl2 (5.3 mL, 73 mmol) dropwise. The ice bath was removed and the reaction stirred at rt overnight. After heating the reaction at reflux for 4 h, the solvent was evaporated. The residue was suspended in CH2Cl2 (100 mL) at 0° C. and triethylamine (25 mL) was added, followed by the dropwise addition of methanesulfonyl chloride (7.75 mL, 100 mmol). The reaction was stirred at rt for 1 h, poured into ice H2O, extracted with CH2Cl2 , dried over anhydrous Na2SO4, filtered and evaporated. The crude product was flash chromatographed on silica gel eluting with 1% MeOH/CHCl3. The title compound was isolated as a white solid (11.8 g, 74%): 1H NMR (CDCl3): δ8.03 (d, 2H); 7.42 (d, 2H); 4.9 (br t, 1H); 4.38 (d, 2H); 3.92 (s, 3H); 2.89 (s, 3H).

reactant | 4-(aminomethyl)benzoic acid | 66 mmol, 10 g | NCC1=CC=C(C(=O)O)C=C1 | C8H9NO2
reactant | SOCl2 | 73 mmol, 5.3 mL | O=S(Cl)Cl | Cl2OS
reactant | methanesulfonyl chloride | 100 mmol, 7.75 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | MeOH | 100 mL | CO | CH4O
product | Methyl 4-[(methanesulfonamido)methyl]benzoate | CS(=O)(=O)NCC1=CC=C(C(=O)OC)C=C1 | C10H13NO4S
